US07282588B2
Preparation of N-{4-[1-ethyl-4-(1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-3-yl]phenyl}-N′-phenylurea
A solution of 4-[1-ethyl-4-(1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-3-yl]aniline (2.2 mmol) in pyridine (4 mL) was treated with phenyl isocyanate (2.4 mmol) and stirred for 1 h at room temperature. The reaction mixture was concentrated in vacuo and purification of the residue by flash chromatography (80-100% ethyl acetate/hexanes) provided the title product as a white powder (50%). ESMS [M+H]+: 423.2

reactant | 4-[1-ethyl-4-(1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-3-yl]aniline | 2.2 mmol | C(C)N1N=C(C(=C1)C1=C2C(=NC=C1)NC=C2)C2=CC=C(N)C=C2 | C18H17N5
reactant | phenyl isocyanate | 2.4 mmol | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | pyridine | 4 mL | N1=CC=CC=C1 | C5H5N
product | N-{4-[1-ethyl-4-(1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-3-yl]phenyl}-N′-phenylurea | 50% | C(C)N1N=C(C(=C1)C1=C2C(=NC=C1)NC=C2)C2=CC=C(C=C2)NC(=O)NC2=CC=CC=C2 | C25H22N6O
